US06800778B1
Production of 1-(6,7-dimethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
4-Bromo-1H-imidazol (1.95 g) was dissolved in THF (30 ml) and the mixture was cooled to −78° C. A solution (1.7 M; 20 ml) of t-butyllithium in pentane was added. The mixture was stirred at 0° C. for 1.5 h and again cooled to −78° C. A solution (20 ml) of 6,7-dimethoxy-2-formyl naphthalene (3.32 g) in THF was added and the mixture was warmed from −78° C. to room temperature. The mixture was stirred at room temperature for 16 h and aqueous solution of ammonium chloride was added. The mixture was extracted with ethyl acetate and the organic layer was dried and concentrated. The residue was purified by silica gel column chromatography (eluate, dichloromethane:methanol=10:1) and crystallized from dichloromethane-methanol to give the title compound (1.31 g) as a colorless solid.

reactant | 4-Bromo-1H-imidazol | 1.95 g | BrC=1N=CNC1 | C3H3BrN2
reactant | t-butyllithium | 1.7 M, 20 ml | C(C)(C)(C)[Li]
reactant | 6,7-dimethoxy-2-formyl naphthalene | 20 ml, 3.32 g | COC=1C=C2C=CC(=CC2=CC1OC)C=O | C13H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 1-(6,7-dimethoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.31 g | COC=1C=C2C=CC(=CC2=CC1OC)C(C(C)C)(O)C=1N=CNC1 | C19H22N2O3
